US07851493B2
1.0 g 4-(2,2,2-Trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid were dissolved in 30 ml tetrahydrofuran. At 0-5° C. 6.6 ml of a one molar solution of borane tetrahydrofuran complex were added. The reaction mixture was stirred at room temperature for three hours and at 60° C. for one hour. The cooled reaction mixture was diluted by addition of 100 ml ethyl acetate and washed with 50 ml water. The organic phase was dried over MgSO4 then the solvent was removed in vacuo. The residue was purified by RP-HPLC to obtain 422 mg [4-(2,2,2-trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol.

reactant | 4-(2,2,2-Trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid | 1.0 g | FC(COCC=1N=C(OC1C(=O)O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C14H9F6NO4
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [4-(2,2,2-trifluoro-ethoxymethyl)-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-methanol | 422 mg | FC(COCC=1N=C(OC1CO)C1=CC=C(C=C1)C(F)(F)F)(F)F | C14H11F6NO3
